US04628024
3.9 g of 2-mercapto-5-carboxybenzimidazole and 3 ml of triethylamine were dissolved in 50 ml of DMF and to the solution was added dropwise 50 ml of a DMF solution containing 11 g of α-chloro-α-(4-methoxybenzoyl)-2-chloro-5-dodecyloxycarbonylacetanilide at 15° C. over a period of 30 minutes. The reaction mixture was further stirred at room temperature for 2 hours and then poured into 1 liter of water. The crystals thus deposited were collected by filtration and recrystallized from methanol to obtain 11 g of α-(4-methoxybenzoyl)-α-(5-carboxy-2-benzimidazolylthio)-2-chloro-5-dodecyloxycarbonylacetanilide. Yield: 77.6%. Melting Point: 190° to 205° C. 11 g of α-(4-methoxybenzoyl)-α-(5-carboxy-2-benzimidazolylthio)-2-chloro-5-dodecyloxycarbonylacetanilide, 2.6 g of 1-formyl-2-(4-aminophenyl)hydrazine and 0.1 g of 4-dimethylaminopyrimidine were dissolved in 50 ml of DMF and to the solution was added dropwise 5 ml of a DMF solution containing 3.2 g of dicyclohexylcarbodiimide with stirring at room temperature. The mixture was further stirred at room temperature for 2 hours and then at 50° C. for 30 minutes. After cooling with water, dicyclohexylurea formed was removed by filtration and the filtrate was poured into 500 ml of water. The crystals thus deposited were collected by filtration and purified with 50 ml of hot ethanol to obtain 8.5 g of the desired Compound (8). Yield: 65%. Melting Point: 244° to 247° C.

reactant | 2-mercapto-5-carboxybenzimidazole | 3.9 g | SC=1NC2=C(N1)C=CC(=C2)C(=O)O | C8H6N2O2S
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | α-chloro-α-(4-methoxybenzoyl)-2-chloro-5-dodecyloxycarbonylacetanilide | 11 g | ClC(C(=O)N(C1=CC=CC=C1)C(=O)OC(CCCC)CCCCCCC)(Cl)C(C1=CC=C(C=C1)OC)=O | C29H37Cl2NO5
reactant | water | 1 liter | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | α-(4-methoxybenzoyl)-α-(5-carboxy-2-benzimidazolylthio)-2-chloro-5-dodecyloxycarbonylacetanilide | 11 g, Yield: 77.6% | COC1=CC=C(C(=O)C(C(=O)N(C2=CC=CC=C2)C(=O)OC(CCCC)CCCCCCC)(Cl)SC=2NC3=C(N2)C=CC(=C3)C(=O)O)C=C1 | C37H42ClN3O7S
